US20010006969A1
2-Chloro-4-(1-methylpropylamino)-6-nitroquinazoline
To 250 mg (1.21 mmol) of 6-nitroquinazoline-2,4(1H,3H)-dione were added 5.00 ml (53.64 mmol) of phosphorus oxychloride and 0.18 ml (1.21 mmol) of diisopropylformamide, and the resulting mixture was subjected to heating under reflux for 24 hours. After phosphorus oxychloride was removed in vacuo, the mixture was dissolved in 5 ml of acetonitrile, followed by addition of 1.23 ml (12.10 mmol) of 1-methylpropylamine under ice cooling and stirring under ice cooling for 30 minutes. To the reaction solution was added water, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 234 mg (68.9%) of the title compound.

reactant | 6-nitroquinazoline-2,4(1H,3H)-dione | 1.21 mmol, 250 mg | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | phosphorus oxychloride | 53.64 mmol, 5.00 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylformamide | 1.21 mmol, 0.18 ml | C(C)(C)N(C=O)C(C)C | C7H15NO
reactant | 1-methylpropylamine | 12.10 mmol, 1.23 ml | CC(CC)N | C4H11N
solvent | water | O | H2O
product | 2-Chloro-4-(1-methylpropylamino)-6-nitroquinazoline | 234 mg, 68.9% | ClC1=NC2=CC=C(C=C2C(=N1)NC(CC)C)[N+](=O)[O-] | C12H13ClN4O2
